US04501701
A mixture of 3.6 g of diethyl α-aminoethyl-phosphonate prepared by the process of Chalmers et al, J.A.C.S., Vol 75 (1953), p. 5278 and 2 g of formylacetic acid anhydride stood overnight at room temperature and was then heated at 120° C. under a pressure of 0.5 to 1 mm Hg for 15 to 20 minutes. The residue was distilled to obtain pure diethyl 1-(N-formylamino)-ethyl-phosphonate with a boiling point of 148°~150° at 0.5 mm Hg which was used as is for the next step.

reactant | diethyl α-aminoethyl-phosphonate | 3.6 g | NC(C)P(OCC)(OCC)=O | C6H16NO3P
reactant | formylacetic acid anhydride | 2 g | C(=O)CC(=O)OC(CC=O)=O | C6H6O5
product | diethyl 1-(N-formylamino)-ethyl-phosphonate | C(=O)NC(C)P(OCC)(OCC)=O | C7H16NO4P
